US06737431B2
N-t-Butoxycarbonyl 7-(3-aminopropyl)-6-vinyl-2-ethylbenzoxazole
A solution of N-t-butoxycarbonyl 7-(3-aminopropyl)-6-bromo-2-ethylbenzoxazole (396 mg, 1.03 mmol), vinyltributyltin (360 mg, 1.14 mmol), and tetrakis(triphenylphosphine)palladium (0) (60 mg, 0.052 mmol) in toluene (10 mL) was refluxed for 3 hours. The crude reaction mixture was poured directly on a silica gel column, and the tin by-products were eluted with hexanes. The product was eluted with 25% EtOAc/hexanes to give a clear oil (180 mg, 53%).

reactant | N-t-butoxycarbonyl 7-(3-aminopropyl)-6-bromo-2-ethylbenzoxazole | 1.03 mmol, 396 mg | C(C)(C)(C)OC(=O)N1C(OC2=C1C=CC(=C2CCCN)Br)CC | C17H25BrN2O3
reactant | vinyltributyltin | 1.14 mmol, 360 mg | C(=C)[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 0.052 mmol, 60 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-t-Butoxycarbonyl 7-(3-aminopropyl)-6-vinyl-2-ethylbenzoxazole | 180 mg, 53% | C(C)(C)(C)OC(=O)N1C(OC2=C1C=CC(=C2CCCN)C=C)CC | C19H28N2O3
